MeetingHub-4 v3 one-hot selector (component-level)
.include models.lib
VBUS vbus 0 PWL(0 0 0.050000 5 100 5)
RF1  vbus p5 1
C1 p5 0 100n
C2 p5 0 10u
C3 p5 0 47u
C4 p5 0 100n

Vpr1 pr1 0 PWL(0 0)
Vpr2 pr2 0 PWL(0 0)
Vpr3 pr3 0 PWL(0 0)
Vpr4 pr4 0 PWL(0 0)
SB1 p5 btn1 pr1 0 SWB
SB2 p5 btn2 pr2 0 SWB
SB3 p5 btn3 pr3 0 SWB
SB4 p5 btn4 pr4 0 SWB
.model SWB SW(VT=2.5 VH=0.2 RON=25 ROFF=1G)
Rb1 btn1 0 1meg
Rb2 btn2 0 1meg
Rb3 btn3 0 1meg
Rb4 btn4 0 1meg

D6  btn1 set1 D1N4148
D7  btn1 rst2 D1N4148
D8  btn1 rst3 D1N4148
D9  btn1 rst4 D1N4148
D10 btn2 set2 D1N4148
D11 btn2 rst1 D1N4148
D12 btn2 rst3 D1N4148
D13 btn2 rst4 D1N4148
D14 btn3 set3 D1N4148
D15 btn3 rst1 D1N4148
D16 btn3 rst2 D1N4148
D17 btn3 rst4 D1N4148
D18 btn4 set4 D1N4148
D19 btn4 rst1 D1N4148
D20 btn4 rst2 D1N4148
D21 btn4 rst3 D1N4148
R3 set1 0 100k
R4 set2 0 100k
R5 set3 0 100k
R6 set4 0 100k
R7 rst1 0 100k
R8 rst2 0 100k
R9 rst3 0 100k
R10 rst4 0 100k

C5  p5 porn 10u
R11 porn 0 100k
D22 porn rst1 D1N4148
D23 porn rst2 D1N4148
D24 porn rst3 D1N4148
D25 porn rst4 D1N4148

XL1 qo1 set1 rst1 p5 p5 0 CD4043LATCH
XL2 qo2 set2 rst2 p5 p5 0 CD4043LATCH
XL3 qo3 set3 rst3 p5 p5 0 CD4043LATCH
XL4 qo4 set4 rst4 p5 p5 0 CD4043LATCH

R12 qo1 gate1 1k
R13 qo2 gate2 1k
R14 qo3 gate3 1k
R15 qo4 gate4 1k
R16 gate1 0 100k
R17 gate2 0 100k
R18 gate3 0 100k
R19 gate4 0 100k
XQ1 coil1 gate1 0 Q2N7000
XQ2 coil2 gate2 0 Q2N7000
XQ3 coil3 gate3 0 Q2N7000
XQ4 coil4 gate4 0 Q2N7000

XK1 p5 coil1 nb1 hmic ncb1 RELAY_G5V1
XK2 p5 coil2 nb2 hmic ncb2 RELAY_G5V1
XK3 p5 coil3 nb3 hmic ncb3 RELAY_G5V1
XK4 p5 coil4 nb4 hmic ncb4 RELAY_G5V1
RNC1 ncb1 0 2.2k
RNC2 ncb2 0 2.2k
RNC3 ncb3 0 2.2k
RNC4 ncb4 0 2.2k
D2 coil1 p5 D1N4148
D3 coil2 p5 D1N4148
D4 coil3 p5 D1N4148
D5 coil4 p5 D1N4148

XMIC hmic 0 ELECTRET
Vb1 vb1 0 2.2
Vb2 vb2 0 2.2
Vb3 vb3 0 2.2
Vb4 vb4 0 2.2
Rn1 vb1 nb1 2200.0
Rn2 vb2 nb2 2200.0
Rn3 vb3 nb3 2200.0
Rn4 vb4 nb4 2200.0
.options reltol=2e-3 abstol=1e-9 vntol=1e-5 method=gear

.control
 tran 100u 0.5 uic
 meas tran porn_settle FIND v(porn) AT=0.06
 meas tran qmax MAX v(qo1) FROM=0 TO=0.5
 plot v(vbus) v(porn) v(qo1)
.endc
.end
